Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
"I tried to kill myself, and I wish I were dead."

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female admitted to MICU following reports suicide 
attempt on doxepin, Neurontin, Seroquel and possibly clonazepam. 
 Patient reports she has been significantly depressed since 
eviction from her mother's house
approximately 2 weeks ago for "relapsing" on drugs (pain
medications claimed for sciatica) She reports she attempted
suicide out of distress on not having a place to live and was
admitted to ___ and was discharged
approximately 1 week ago.  She states she has been staying
intermittently with friends, is fearful of shelters, and night 
of
admission took line of heroin, cocaine, and EtOH and attempted 
to kill herself
with a handful of pills.  She states she wish she were dead 
right
now.  She was lethargic and admitted to the ICU.  She reports
being on disability secondary to her anxiety/ depression and 
PTSD
and reports that starting on the ___ when her check comes in she
may have a room to live in.  She reports depression with 
suicidal
ideation, poor sleep, poor appetite, hopelessness, helplessness,
irritability and anxiety as well as nightly night mares due to
her boyfriend being murdered years ago.  She states that she 
uses
cocaine and heroin occasionally, has a legitimate prescription
for Vicodin secondary to a sciatica surgery in ___ and
reports occasional alcohol use.  She reports her psychiatrist is
Dr ___ in ___ who she gave permission to contact 
(message
left ___ ) and in addition to her psych meds she 
takes
clonazepam prescribed by her PCP "because my psychiatrist 
doesn't
believe in the medication."

The patient states she currently wishes she were dead, her
boyfriend confirmed that she attempted to overdose (was in the
room) and that if her housing situation were taken care of she
feels her mood symptoms would be much more improved.

Additional stressors include not living with mother who her son
lives with ___ years old) who she states is starting to smoke,
set fires, and act out.  Patient cannot live with boyfriend/
fiance as he lives with sister.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Reports extensive suicide attempts by
overdosing, attempting to shoot self with gun (was not loaded)
cutting wrists, carbon monoxide, and hanging, reports several
admissions, last admission to ___ approximately 1 
week
ago for detox, prior going back to teenage years.  

Psychiatrist: Dr. ___ saw pt ___.  Has not seen pt 
in a couple of months due to pt no-showing ___ difficulty 
w/transport.  Per Dr. ___, she is terminating relationship 
with pt for multiple reasons including frequent no-shows and 
$200 in unpaid bills.
Therapist:  Dr. ___ (___).  Also has not seen 
pt in a couple of months.

MEDICAL HISTORY:  Sciatica, GERD, migraines, foot bunion s/p 
surgery ___
PCP:  Dr. ___, has only seen pt twice.  Pt has been trying to 
transfer care to ___ so that she will be eligible for ___ 
clinic.  ___ appt w/new PCP scheduled for ___ at 2:___ (___).
 
Social History:
SUBSTANCE USE/ABUSE HISTORY: 
EtOH:  about one 22 oz beer every month/every 2 weeks.  Denies 
h/o detox/withdrawal seizures/DTs/blackouts.  Last drink on ___, 
drank 3 shots of E&J liquor, unknown type or proof.
Cocaine:  $20 of crack every 6 months, last use ___, prior use 6 
months ago
Heroin:  Snorted one line (approx $5) of heroin on ___.  
Reported last use prior to ___ was ___ yr ago prior to starting 
Suboxone maintenance.  She reorted to PGY-1 Dr. ___ she 
lied to inpatient unit ___ in ___, telling them she was using heroin so they would put her 
back on Suboxone maintenance.  Per Dr. ___ (___), who was her I/P psychiatrist at that time, he continued 
her on suboxone and gave her script because she told him she had 
a ___ clinic and was transitioning to a new one and he was 
providing a bridging prescription.  However, he notes that he is 
not her usual suboxone provider, has not been following her 
since pt's d/c from I/P unit, and that she is not eligible for 
their clinic at this time.
Suboxone:  Reports starting Suboxone maintaince ___ yr ago s/p 
heroin detox by provider ___ at ___. E___ with maintenance 
dose of 8 mg qid (total 32 mg daily).  Per pt, a few months ago 
her suboxone provider was shut down for bad rx'ing practices.  
She had about 200  8 mg tablets left ___ from saving up 
which she continued to use for maintance.  She would 
intermittently stop the suboxone to take Vicodin for pain relief 
of her foot bunion and then start Suboxone again after pain was 
under control.  She was taking 8 mg bid-tid of her stored 
suboxone, for most days of the wk until she ran out in ___.  
She then went to ___. E___ in ___ to get a new rx by lying about 
heroin usage.  She reports that Dr. ___ at ___. E'___ said 
he will continue to prescribe 8 mg bid for her until she gets a 
new provider at ___.  Last use ___.  Per ___ 
(___), Dr. ___ pt rx for suboxone (___) 
take 2 tabs once a day SL.  Pt states she has an appt w/___ for 
suboxone, but per ___ at ___ clinic (___), 
pt has not been accepted; she had an appointment in ___ that 
she DNK'd, and now needs to be referred by a ___ PCP to be 
considered for suboxone tx.

Vicodin:  Reports being rx'd Vicodin s/p bunion surgery ___.  
Per ___ pharmacy, this was prescribed by Dr. ___ and 
was last filled in ___.  Denies abuse.  Reports last use in 
___ prior to ___. E's admission.  

___:  Denies abuse.  PCP ___ her ___ 
prn anxiety.  She reports that her psychiatrist Dr. ___ 
refused to rx ___ so she asked her PCP.  Denies using EtOH 
___.  Denies taking ___ ___. prior to admit.  
Reports uses most days of week, ___ mg/day.

Sobriety:  Pt reports longest period of sobriety from drugs was 
___ years, during which she occasionally used EtOH and would get 
drunk during major holidays.  Pt states that she was last sober 
from all substances including EtOH for 2 months after Xmas.  
States that she tried AA but that "it's not really for me."

Other:  Smokes tobacco.  Denies use of other street drugs, IVDU, 
or abuse of prescription meds.

FORSENSIC REVIEW: Reports brief stay in jail ___ yr ago for 
"threatening to
commit a crime"- was in altercation and reported she threatened 
a
person with a small pocket knife after getting punched for 
stealing the other person's belongings.  Pt was placed on ___ yr 
probation, failed, and served 8 mo at ___, ___.  Also a 
recent court date coming up for shoplifting.  Denies h/o 
physical assault.

DEVELOPMENTAL/SOCIAL/FAMILY HISTORY: From ___, 
mother in ___.  Lived with mother, father, and brother, 
until mother divorced biodad when pt age ___.  When pt age ___, 
stepdad moved in.  When the kids were teenagers, parents would 
go to ___ "for weeks" and leave the kids alone.  Pt reported 
starting drinking and drugs at that time.  Graduated HS, started 
___ school but dropped out, took a few courses on 
psychology/social work at local college.

Pt denies h/o abuse but states that has had physically abusive 
relationships.  Also notes traumatic event at age ___ when she 
was tied down and witnessed the murder of her boyfriend.  

Has a ___ yo son named ___ who lives w/her mother.  Lost 
custody of son when he was age ___ because pt slit wrists while 
EtOH intoxicated.  Reportedly on disability secondary to 
anxiety/depression/PTSD, recently worked "under the table" with 
mom helping her clean houses or as ___ for elderly.  H/o 
employment includes ___ and ___ of ___ but no formal 
job x ___ yr.

 
Family History:
Father--EtOH.
 
Physical Exam:
PE:  Pt seen and examined by Dr. ___ and medically 
cleared for I/P psych admission.

MENTAL STATUS EXAM: 
Fully oriented to ___, correct date
pleasant, fully interactive, no psychomotor abnormalities
mood "depressed" affect euthymic, tearful at times
TP linear, goal directed
TC focused on housing, no AH/VH/HI, reported SI as above
eye contact fair
dressed in hosp gown
speech wnl, normal rate, rhythm, tone, prosody
insight limited, judgement poor
calculations 10 in 2.75 "oh, i got that wrong" 6 in 1.50
presidents ___, ___
memory ___ at 5 min
WORLD forwards and backwards

 
Pertinent Results:
___ 02:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 07:05AM   GLUCOSE-97 UREA N-9 CREAT-0.6 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-110* TOTAL CO2-25 ANION GAP-10
___ 07:05AM   MAGNESIUM-1.8
___ 07:05AM   WBC-6.1 RBC-3.53* HGB-11.1* HCT-32.2* MCV-91 
MCH-31.5 MCHC-34.6 RDW-12.8
___ 07:05AM   PLT COUNT-210
___ 05:03PM URINE  UCG-NEGATIVE
___ 04:51AM   ___ TEMP-35.3 RATES-/26 PO2-58* PCO2-53* 
PH-7.35 TOTAL CO2-30 BASE XS-1 INTUBATED-NOT INTUBA
___ 04:51AM   LACTATE-1.9
___ 04:37AM   GLUCOSE-113* UREA N-6 CREAT-0.5 SODIUM-149* 
POTASSIUM-3.5 CHLORIDE-114* TOTAL CO2-27 ANION GAP-12
___ 04:37AM   ALT(SGPT)-11 AST(SGOT)-24 LD(LDH)-258* ALK 
PHOS-41 TOT BILI-0.2
___ 04:37AM   ALBUMIN-3.5 CALCIUM-7.2* PHOSPHATE-3.2 
MAGNESIUM-1.8
___ 04:37AM   TSH-0.65
___:37AM   WBC-4.8 RBC-3.18* HGB-10.1* HCT-28.9* MCV-91 
MCH-31.6 MCHC-34.8 RDW-12.7
___ 04:37AM   PLT COUNT-185
___ 04:37AM   ___
___ 01:07AM   GLUCOSE-101 LACTATE-3.0* NA+-148 K+-3.5 
CL--107 TCO2-24
___ 01:07AM   HGB-14.3 calcHCT-43
___ 01:03AM   GLUCOSE-101 UREA N-8 CREAT-0.7 SODIUM-145 
POTASSIUM-4.0 CHLORIDE-106 TOTAL CO2-22 ANION GAP-21*
___ 01:03AM   LIPASE-26
___ 01:03AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:03AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 01:03AM   WBC-6.1 RBC-3.98* HGB-12.8 HCT-36.5 MCV-92 
MCH-32.3* MCHC-35.2* RDW-12.7
___ 01:03AM   PLT COUNT-223
___ 01:03AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:03AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR
___ 01:03AM URINE  RBC-0 ___ BACTERIA-MANY YEAST-NONE 
EPI-0
 
Brief Hospital Course:
Psych:  Wellbutrin SR restarted at 150 mg on ___ and increased 
to 300 mg on ___ with no adverse effects.  No seizures while on 
I/P unit.  Pt continued on home meds.  Pt also given comfort 
meds for reported opiate withdrawal sx.  Psychotherapy focused 
on how substance abuse interacts w/mental illness.  Motivational 
interviewing was used for substance abuse counseling.  
Supportive, insight-oriented, and interpersonal therapy explored 
how past trauma and current psychosocial stressors have 
contributed to pt's current mental state.  On admission pt noted 
that suicide attempt was ___ feeling overwhelmed as well as 
angry at her mother.  During hospital course, she learned new 
coping skills and was able to process some of her emotions and 
her suicidality diminished.  By the time of discharge, she was 
future-oriented and no longer suicidal.  She was looking forward 
to seeing her boyfriend again and working on her sobriety.  She 
acknowledged that being in a state of intoxication was an 
important factor leading up to the overdose, and states that she 
is committed to sobriety.  She was also able to identify her 
boyfriend and son as reasons to stay alive, and seemed less 
hopeless about the housing situation, and planned on staying in 
a shelter until she could raise enough money for her own place.

Med:  No acute medical issues. 

Legal: ___
Group/milieu:  Pt minimally participated in groups.  She was 
behaviorally stable and did not exhibit any unsafe behavior 
during this admission.

Family:  Pt offered family therapy; family declined.
 
Medications on Admission:
Reported medications:
Seroquel 150, 150, 300 mg po (am, noon, hs)
Neurontin 4 tabs a day
"Reflux medications"
Doxepin "I think 2 pills of 10mg HS"
Wellbutrin "I think 450mg in the morning"
Clonazepam 1mg po bid prn (from ___)

Per ___ in ___
Gabapentin 300mg po qid
clonazepam 1mg po bid
bupropion XL 300mg po qam
Prazosin 3mg po HS
Seroquel 300mg po BID and ___ tab daily
Doxepin 20mg po HS

(No suboxone noted)

(Dr ___ prescribed ___ Clonazepam, 
___ other meds above.  Per Dr. ___ also 
prescribed prozac; pt never filled per ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I:  Polysubstance abuse, mood d/o NOS r/o substance-induced 
mood d/o
Axis II:  defer
Axis III:  sciatica, GERD, s/p bunionectomy
Axis IV:  family stressors, social stressors, unemployed
Axis V:  GAF = 50

 
Discharge Condition:
Fair.  Future oriented.  Denies SI/HI.  No unsafe behaviors.

 
Discharge Instructions:
Take medications only as prescribed.  Please go to follow-up 
appointments as indicated below.  If feeling unsafe or symptoms 
worsen, call ___ or go to the nearest ED.
 
Followup Instructions:
___